US05210092
A mixture of 4-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)pyrrole-2-carbonitrile (2.02 g) and trimethyltin azide (2.42 g) in xylene (20 ml) was stirred at 120° C. for 14 hours. After cooled to ambient temperature, the reaction mixture was concentrated in vacuo. To the residue was added trityl chloride (42 mg), triethylamine (50 μl) and methylene chloride (1 ml), and the mixture was treated in a conventional manner to give 4-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)-2-(1-trityl-1H-tetrazol-5-yl)pyrrole (1.63 g)

reactant | 4-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)pyrrole-2-carbonitrile | 2.02 g | BrC=1C=C(N(C1)C1=CC=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C#N | C28H27BrN2OSi
reactant | trimethyltin azide | 2.42 g | C[Sn](C)(C)N=[N+]=[N-]
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)-2-(1-trityl-1H-tetrazol-5-yl)pyrrole | 1.63 g | BrC=1C=C(N(C1)C1=CC=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H42BrN5OSi
